US09034900B2
Step 1: 7-bromo-2-cyclopropyl-5-methylsulfonyl-1-benzofuran
To a solution of 2,6-dibromo-4-methylsulfonylphenol (1 g, 3.30 mmol) in pyridine (40 mL) was added ethynylcyclopropane (240 mg, 3.64 mmol) and Cu2O (260 mg, 1.82 mmol). The reaction mixture was degassed with N2. The mixture was heated to 130° C. for 3 hours. It was then concentrated and purified by column chromatography (PE to PE/EA=3/1) to give the title product (510 mg, 53%) as a gray solid. 1H NMR (CDCl3, 400 MHz) δ 7.99 (s, 1H), 7.93 (s, 1H), 6.52 (s, 1H), 3.07 (s, 3H), 2.13-2.11 (m, 1H), 1.13-1.05 (m, 4H).

reactant | 2,6-dibromo-4-methylsulfonylphenol | 3.30 mmol, 1 g | BrC1=C(C(=CC(=C1)S(=O)(=O)C)Br)O | C7H6Br2O3S
reactant | ethynylcyclopropane | 3.64 mmol, 240 mg | C(#C)C1CC1 | C5H6
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 7-bromo-2-cyclopropyl-5-methylsulfonyl-1-benzofuran | 510 mg, 53% | BrC1=CC(=CC=2C=C(OC21)C2CC2)S(=O)(=O)C | C12H11BrO3S
